US07834204B2
1,1,3,6,8,8-hexamethyl-1H,8H-dicyclopenta[b,h]fluorene
To a 300-ml three-neck flask, 25.8 g of anhydrous aluminum chloride, 5.18 g of fluorene, and 200 ml of carbon disulfide were charged under nitrogen atmosphere. 6.18 g of mesityl oxide was added dropwise thereto over 15 minutes in a water bath, and the mixture was stirred for 10 hours under reflux. After standing to cool, 100 ml of water was added thereto, and the organic layer was separated. The aqueous layer was extracted with 300 ml of hexane, and the separated organic layer was combined, and washed with water and a saturated aqueous solution of sodium chloride. After the solution was dried over magnesium sulfate, the solvent was distilled off, and the obtained product was purified by column chromatography, and recrystallized with a mixed solvent of ethanol/hexane. The yield was 1.14 g. Identification was performed by 1H-NMR spectrum. The measurement results are shown as follows.

reactant | aluminum chloride | 25.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluorene | 5.18 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | carbon disulfide | 200 ml | C(=S)=S | CS2
reactant | mesityl oxide | 6.18 g | O=C(C)C=C(C)C | C6H10O
solvent | water | 100 ml | O | H2O
product | 1,1,3,6,8,8-hexamethyl-1H,8H-dicyclopenta[b,h]fluorene | CC1(C=C(C=2C=C3C=4C=C5C(=CC4CC3=CC21)C(C=C5C)(C)C)C)C | C25H26
